US04839369
2-[3-(p-Methoxyphenoxymethyl)phenoxymethyl]quinoline
A mixture of 1.2 g (0.01 mol) 4-methoxyphenol, 3.2 g (0.01 mol) 2-(3-chloromethylphenoxymethyl)quinoline hydrochloride,, 2.8 g (0.02 mol) potassium carbonate and 2.8 g (0.017 mol) potassium iodide in 100 ml acetone was refluxed over a period of 24 hours. Reaction mixture was concentrated to dryness and slurried into water and extracted with ether. The ether extract was washed with water, dried over MgSO4 and concentrated to dryness under reduced pressure to obtain solid. Recrystallization from isopropanol yielded 2.1 g product, m.p. 83°-85° C.

reactant | 4-methoxyphenol | 0.01 mol, 1.2 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | 2-(3-chloromethylphenoxymethyl)quinoline hydrochloride | 0.01 mol, 3.2 g | Cl.ClCC=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1
reactant | potassium carbonate | 0.02 mol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.017 mol, 2.8 g | [I-].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-[3-(p-Methoxyphenoxymethyl)phenoxymethyl]quinoline | 2.1 g | COC1=CC=C(OCC=2C=C(OCC3=NC4=CC=CC=C4C=C3)C=CC2)C=C1 | C24H21NO3
